* SpiceSharpParser.CustomComponents portable analog special-function models.

* Analog sample/hold. SH high tracks continuously; otherwise a CLK rising edge samples.
.SUBCKT ANALOG_SAMPLE_HOLD INP INN CLK SH OUT COM PARAMS: REF=0.5 VHIGH=10 VLOW=-10 TPD=0 RIN=1G ROUT=1k COUT=500f RTRACK=1 RHOLD=1T CMEM=10p
RINP INP COM {RIN}
RINN INN COM {RIN}
RINCLK CLK COM {RIN}
RINSH SH COM {RIN}
RCLKD CLK CLKD 1k
CCLKD CLKD COM 1p
BEDGE EDGE COM V={if(V(CLK,COM)>REF,if(V(CLKD,COM)<REF,1,0),0)}
BMEM STATE COM I={if(V(SH,COM)>REF,(V(STATE,COM)-V(INP,INN))/RTRACK,if(V(EDGE,COM)>0.5,(V(STATE,COM)-V(INP,INN))/RTRACK,0))}
RHOLD STATE COM {RHOLD}
CSTATE STATE COM {CMEM}
BSTATE RAW COM V={limit(V(STATE,COM),VLOW,VHIGH)}
BOUT DRIVE COM V={V(RAW,COM)}
ROUT DRIVE OUT {ROUT}
COUT OUT COM {COUT}
.ENDS ANALOG_SAMPLE_HOLD

* LTspice-style four-quadrant operational transconductance amplifier.
* Inputs are two differential pairs: (IN1N,IN1P) and (IN2P,IN2N).
.SUBCKT ANALOG_OTA IN1N IN1P IN2P IN2N RAIL OUT COM PARAMS: G=1 REF=0 IOUT=10u ISRC=10u ISINK=-10u IOFFSET=0 POWERUP=1 ASYM=0 LINEAR=0 ROUT=1T COUT=1p VHIGH=2 VLOW=0 RCLAMP=1
BRAW RAW COM V={(REF-V(IN1N,IN1P))*V(IN2P,IN2N)}
BGM COM OUT I={if(POWERUP>0.5,if(LINEAR>0.5,G*V(RAW,COM)+IOFFSET,if(ASYM>0.5,if(V(RAW,COM)>0,tanh(G*V(RAW,COM)/ISRC)*ISRC,tanh(G*V(RAW,COM)/ISINK)*ISINK)+IOFFSET,tanh(G*V(RAW,COM)/((ISINK-ISRC)/2))*((ISINK-ISRC)/2)+(ISINK+ISRC)/2+IOFFSET)),0)}
RLEAK OUT COM {ROUT}
COUT OUT COM {COUT}
BCLAMP OUT COM I={if(V(OUT,COM)>VHIGH,(V(OUT,COM)-VHIGH)/RCLAMP,if(V(OUT,COM)<VLOW,(V(OUT,COM)-VLOW)/RCLAMP,0))}
BRAIL RAIL COM V={VLOW}
.ENDS ANALOG_OTA

* Voltage-controlled bidirectional varistor. The control differential sets breakdown.
.SUBCKT ANALOG_VARISTOR CONTROL_P CONTROL_N OUT COM PARAMS: RCLAMP=1 ROFF=1T COUT=1p
BVAR OUT COM I={if(V(OUT,COM)>abs(V(CONTROL_P,CONTROL_N)),(V(OUT,COM)-abs(V(CONTROL_P,CONTROL_N)))/RCLAMP,if(V(OUT,COM)<-abs(V(CONTROL_P,CONTROL_N)),(V(OUT,COM)+abs(V(CONTROL_P,CONTROL_N)))/RCLAMP,V(OUT,COM)/ROFF))}
COUT OUT COM {COUT}
.ENDS ANALOG_VARISTOR

* Voltage-controlled oscillator. FM maps linearly from SPACE at 0 V to MARK at 1 V.
.SUBCKT ANALOG_MODULATOR FM AM OUT COM PARAMS: MARK=1k SPACE=1k ROUT=1 COUT=1p CPHASE=1p
IBASE COM PHASE {SPACE*CPHASE}
GFM COM PHASE FM COM {(MARK-SPACE)*CPHASE}
RPHASE PHASE COM 1T
CPHASE PHASE COM {CPHASE}
BOSC DRIVE COM V={V(AM,COM)*sin(2*pi*V(PHASE,COM))}
ROUT DRIVE OUT {ROUT}
COUT OUT COM {COUT}
.ENDS ANALOG_MODULATOR
