Diode circuit
D1 OUT 0 1N914
V1 OUT 0 0
.model 1N914 D(Is=2.52e-9 Rs=0.568 N=1.752 Cjo=4e-12 M=0.4 tt=20e-9)
.DC V1 -1 1 10e-3
.SAVE i(V1)
.PARAM x = {1e-12 * 2}
.OPTIONS abstol = {x} reltol = 1e-9
.END
