Subcircuit - ComplexSubcircuitWithParams

V1 IN 0 4.0
X1 IN OUT twoResistorsInSeries
RX OUT 0 1
.SUBCKT resistor input output params: R=1
R1 input output {R}
.ENDS resistor
.SUBCKT twoResistorsInSeries input output params: R1=10 R2=20
X1 input 1 resistor R=R1
X2 1 output resistor R=R2
.ENDS twoResistorsInSeries
.OP
.SAVE V(OUT)
.END